US08492378B2
To a solution of 2-chloro-5-(trifluoromethyl)aniline (2.15 g, 11.00 mmol) in diethylene glycol dimethyl ether (20 mL) was added sodium hydride (60% in oil, 440 mg, 11.00 mmol), and the resulting mixture was stirred at 80° C. for 30 min. To this reaction mixture was added methyl 3-fluoro-4-nitrobenzoate (1.99 g, 10.00 mmol), and the resulting mixture was stirred at 80° C. for 1 hr. After cooling, 1 M hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with 1M hydrochloric acid and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=20/1) and recrystallized from hexane/ethyl acetate to give crude methyl 3-[[2-chloro-5-(trifluoromethyl)phenyl]amino]-4-nitrobenzoate (1.92 g).

reactant | 2-chloro-5-(trifluoromethyl)aniline | 11.00 mmol, 2.15 g | ClC1=C(N)C=C(C=C1)C(F)(F)F | C7H5ClF3N
reactant | sodium hydride | 11.00 mmol, 440 mg | [H-].[Na+]
reactant | methyl 3-fluoro-4-nitrobenzoate | 10.00 mmol, 1.99 g | FC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C8H6FNO4
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | diethylene glycol dimethyl ether | 20 mL | COCCOCCOC | C6H14O3
product | methyl 3-[[2-chloro-5-(trifluoromethyl)phenyl]amino]-4-nitrobenzoate | 1.92 g | ClC1=C(C=C(C=C1)C(F)(F)F)NC=1C=C(C(=O)OC)C=CC1[N+](=O)[O-] | C15H10ClF3N2O4
